US06509328B1
8-(2-Fluoro-phenyl)-4-(3-imidazol-1-yl-phenyl)-1,3-dihydro-benzo [b][1,4]diazepin-2-one
Prepared from {2′-fluoro-3-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester (Example K45) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light yellow solid (176 mg).

reactant | {2′-fluoro-3-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)=O | C29H27FN4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-(2-Fluoro-phenyl)-4-(3-imidazol-1-yl-phenyl)-1,3-dihydro-benzo [b][1,4]diazepin-2-one | 176 mg | FC1=C(C=CC=C1)C=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2C=NC=C2)=O)C1 | C24H17FN4O
